US08383827B2
Step 1: Synthesis of 2-Fluoro-4-(5-formyl-pyridin-3-yl)-benzonitrile
A mixture of 4-cyano-3-fluorophenylboronic acid (0.495 g, 3 mmol), 5-bromonicotinaldehyde (0.558 g, 3.00 mmol), sodium carbonate (2M in water, 3.00 mL, 6.00 mmol), bis(triphenylphosphine)palladium(II) chloride (0.053 g, 0.075 mmol) in DMF (10 mL) was heated to 95° C. for 3 h. After concentration, the residue was dissolved into CH2Cl2-MeOH and mixed with silica gel and concentrated. After flash column (MeOH—CH2Cl2, v/v, 0.5%-1%) yielded a colorless solid (170 mg) ESI-MS m/z: 227 [M+1]+.

reactant | 4-cyano-3-fluorophenylboronic acid | 3 mmol, 0.495 g | C(#N)C1=C(C=C(C=C1)B(O)O)F | C7H5BFNO2
reactant | 5-bromonicotinaldehyde | 3.00 mmol, 0.558 g | BrC=1C=NC=C(C=O)C1 | C6H4BrNO
reactant | sodium carbonate | 6.00 mmol, 2M, 3.00 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.075 mmol, 0.053 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Fluoro-4-(5-formyl-pyridin-3-yl)-benzonitrile | 170 mg | FC1=C(C#N)C=CC(=C1)C=1C=NC=C(C1)C=O | C13H7FN2O
